US05032165
Preparation of N,N-dimethyl 2-[5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorophenoxy]propionamide (compound No. 110)
A solution of 2-[5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole-3-yl)-2,4-dichlorophenoxy]propionyl chloride (0.80 g, 1.78 mmoles) in 20 ml anhydrous tetrahydrofuran was added dropwise to a solution of 50% dimethylamine (0.32 g, 3.56 mmoles) in 20 ml tetrahydrofuran at room temperature to react the pyrazole derivative with dimethylamine. After the addition was finished, the reaction was continued further for 1 hour. Then ethyl acetate was added to the reaction product solution, and the mixture was washed with water. The separated organic layer was dehydrated, concentrated under reduced pressure, and purified by silica gel chromatography, giving crystals (0.24 g) of the title compound, m.p. 148.9° C., yield 27%.

reactant | 2-[5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole-3-yl)-2,4-dichlorophenoxy]propionyl chloride | 1.78 mmoles, 0.80 g | ClC=1C(=NN(C1OC(F)F)C)C=1C(=CC(=C(OC(C(=O)Cl)C)C1)Cl)Cl | C14H10Cl4F2N2O3
reactant | dimethylamine | 3.56 mmoles, 0.32 g | CNC | C2H7N
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl 2-[5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorophenoxy]propionamide | 0.24 g, yield 27% | CN(C(C(C)OC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl)=O)C | C16H16Cl3F2N3O3
